US09328099B2
1-[3-(Cyanomethyl)-1-(2,2,2-trifluoroethyl)azetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
To a suspension of 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate (Intermediate #38-2) (23 mg, 0.078 mmol) in dioxane (2 mL) was added 2,2,2-trifluoroethyl trifluoromethanesulfonate (36 mg, 0.15 mmol), followed by K2CO3 (23 mg, 0.078 mmol). The resulting mixture was heated to 110° C. and allowed to stir for 2 hours. The reaction was then cooled to ambient temperature, water was added and the reaction mixture was extracted with EtOAc (3×). The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-100%, EtOAc/hexanes) to afford the title compound, Example #19. 1H NMR (600 MHz, CDCl3): δ 8.78 (s, 1H), 7.75 (s, 1H), 7.48 (d, J=7.7 Hz, 2H), 7.26 (t, J=7.9 Hz, 2H), 6.90 (t, J=7.3 Hz, 1H), 5.62 (s, 2H), 3.81 (d, J=8.6 Hz, 2H), 3.74 (d, J=8.6 Hz, 2H), 3.34 (s, 2H), 3.09 (q, J=9.1 Hz, 2H). LRMS (ESI) calc'd for C17H17F3N6O [M+H]+: 379. Found: 379.

reactant | 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate | 0.078 mmol, 23 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(C[NH2+]C1)CC#N)NC1=CC=CC=C1
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.15 mmol, 36 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | K2CO3 | 0.078 mmol, 23 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-[3-(Cyanomethyl)-1-(2,2,2-trifluoroethyl)azetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C(#N)CC1(CN(C1)CC(F)(F)F)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C17H17F3N6O
